US04288624
1-Methyl-3-(2,2-dimethylpropionyl)-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
A 3.6 g. portion of impure 6,6-dimethyl-1-dimethylamino-2-(3-trifluoromethylphenyl)-1-heptene-3,5-dione was dissolved in 17 ml. of N,N-dimethylformamide dimethyl acetal and stirred under reflux at about 100° overnight using a sub-surface nitrogen bubbler. The mixture was then evaporated under vacuum to obtain 3.5 g. of a dark oil, which was dissolved in 120 ml. of tetrahydrofuran and reacted with 15 ml. of 40% aqueous methylamine at ambient temperature for 1 hour. The mixture was then evaporated under vacuum, and the resulting oil was chromatographed on a 300 g. silica gel column with 2:3 ethyl acetate:dichloromethane as the eluting solvent. The product-containing fractions were combined and evaporated under vacuum, and the residue was triturated under hexane to obtain 0.6 g. of the desired product, m.p. 86°-88°, showing the following peaks on nmr analysis in DMSOd6 : δ7.6-8.2 (m, 6H, aromatic); 3.8 (s, 3H, N--CH3); 1.2 (s, 9 H, C(CH3)3).

reactant | 6,6-dimethyl-1-dimethylamino-2-(3-trifluoromethylphenyl)-1-heptene-3,5-dione | CC(C(CC(C(=CN(C)C)C1=CC(=CC=C1)C(F)(F)F)=O)=O)(C)C | C18H22F3NO2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Methyl-3-(2,2-dimethylpropionyl)-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | CN1C=C(C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)=O)C(C(C)(C)C)=O | C18H18F3NO2
